US08455483B2
b) 2-(3-(Bromomethyl)-5-chlorophenyl)ethanol
A solution of borane dimethyl sulfide complex (2M in THF, 2.8 mL) was added portionwise over 5 minutes to a solution of 2-(3-(bromomethyl)-5-chlorophenyl)acetic acid [Aromatic Intermediate 8, step a] (0.73 g) in dry THF (10 mL) at room temperature. The resulting effervescing solution was stirred for 1 hour, then cooled in ice-water and quenched by the portionwise addition of methanol (3 mL) over 5 minutes. The solution was stirred at room temperature for a further 20 minutes and then concentrated in vacuo. The residue was purified by flash chromatography on silica eluted with 25% ethyl acetate in isohexane to afford the crude subtitled compound as a white solid. Yield 0.46 g.

reactant | borane dimethyl sulfide | 2M, 2.8 mL | CSC.B
reactant | 2-(3-(bromomethyl)-5-chlorophenyl)acetic acid | BrCC=1C=C(C=C(C1)Cl)CC(=O)O | C9H8BrClO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(3-(Bromomethyl)-5-chlorophenyl)ethanol | BrCC=1C=C(C=C(C1)Cl)CCO | C9H10BrClO
